US07557114B2
(b) 1-(2,3-Dihydro-1H-isoindol-5-yl)-pyrrolidin-2-one hydrochloride
Prepared in analogy to Example A3(e) from 5-(2-oxo-pyrrolidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Off-white solid. MS (m/e): 203.4 ([M+H]+, 100%).

reactant | 5-(2-oxo-pyrrolidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1C(CCC1)=O | C17H22N2O3
reactant | hydrochloric acid | Cl | ClH
product | 1-(2,3-Dihydro-1H-isoindol-5-yl)-pyrrolidin-2-one hydrochloride | Cl.C1NCC2=CC(=CC=C12)N1C(CCC1)=O | InChI=1S/C12H14N2O.ClH/c15-12-2-1-5-14(12)11-4-3-9-7-13-8-10(9)6-11;/h3-4,6,13H,1-2,5,7-8H2;1H
